US05506235
Under a nitrogen atmosphere in a 500 single-neck round bottom flask equipped with a condenser and a magnetic stirrer, a solution of 2.00 g (9.62 mmol) of 4-chloro-6-methoxy-2-methylquinoline and 150 mL of 48% hydrobromic acid was heated under reflux for 90 minutes. Upon cooling to room temperature, the reaction solution was evaporated under reduced pressure to afford a solid residue. The residue was slurried in chloroform filtered and washed with chloroform. The solid was next slurried in a mixture of saturated aqueous sodium carbonate and ethyl acetate for 15 minutes, filtered and washed successively with saturated aqueous sodium carbonate, water and ethyl acetate. After air drying there was obtained 741 mg (40%) of 4-chloro-2-methylquinolin-6-ol: m.p. 233° C.

reactant | 4-chloro-6-methoxy-2-methylquinoline | 9.62 mmol, 2.00 g | ClC1=CC(=NC2=CC=C(C=C12)OC)C | C11H10ClNO
reactant | hydrobromic acid | 150 mL | Br | BrH
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-2-methylquinolin-6-ol | 741 mg, 40% | ClC1=CC(=NC2=CC=C(C=C12)O)C | C10H8ClNO
